US06562828B1
7-[4-Ethoxycarbonyl-1-(pyridin-4-yl)piperidin-4-ylmethoxy]-1,2,3,4-tetrahydroisoquinoline-2-carboxylic Acid tert-Butyl Ester
To a solution of 1-(pyridin-4-yl)piperidine-4-carboxylic acid ethyl ester (Tetrahedron, vol. 44, No. 23, p. 7095 (1988)) (13.4 g) in tetrahydrofuran (300 ml) was dropwise added a 2M-lithium diisopropylamide-tetrahydrofuran solution (31 ml) at −70° C. under an argon atmosphere, and the mixture was stirred at the same temperature for 45 min. To this solution was dropwise added a solution of 7-chloromethoxy-1,2,3,4-tetrahydroisoquinoline-2-carboxylic acid tert-butyl ester (7.4 g) in tetrahydrofuran (80 ml) at the same temperature, and the mixture was allowed to warm to room temperature in 5.5 hours in stirring. After completion of the reaction, aqueous ammonium chloride solution (50 ml) and water (50 ml) were added, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated and the obtained residue was dissolved in methanol (150 ml). Thereto was dropwise added 1N aqueous sodium hydroxide solution (50 ml) with ice-cooling, and the mixture was stirred at room temperature for 1 hour. The solvent was evaporated and the obtained residue was extracted with ethyl acetate and dried over anhydrous sodium sulfate. The solvent was evaporated and the obtained residue was purified by silica gel column chromatography (chloroform:methanol=20:1-10:1) and dried under reduced pressure to give the title compound (10.87 g).

reactant | 1-(pyridin-4-yl)piperidine-4-carboxylic acid ethyl ester | C(C)OC(=O)C1CCN(CC1)C1=CC=NC=C1 | C13H18N2O2
reactant | lithium diisopropylamide tetrahydrofuran | 31 ml | C(C)(C)[N-]C(C)C.[Li+].O1CCCC1
reactant | 7-chloromethoxy-1,2,3,4-tetrahydroisoquinoline-2-carboxylic acid tert-butyl ester | 7.4 g | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2CC1)OCCl | C15H20ClNO3
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | water | 50 ml | O | H2O
product | 7-[4-Ethoxycarbonyl-1-(pyridin-4-yl)piperidin-4-ylmethoxy]-1,2,3,4-tetrahydroisoquinoline-2-carboxylic Acid tert-Butyl Ester | 10.87 g | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2CC1)OCC1(CCN(CC1)C1=CC=NC=C1)C(=O)OCC | C28H37N3O5
